US06339097B1
2-(4-Phenyl-2H-3-benzo[b]pyranyl)hexanoic acid
3.1 ml (22 mmol) of diisopropylamine in solution in 20 ml of tetrahydrofuran are placed in a 250-ml reactor protected from moisture, and then 13.75 ml (22 mmol) of n-butyllithium in hexane (1.6 M) are added dropwise to this solution kept at 0° C. After stirring the reaction medium for 15 minutes at 0° C., 2.66 g (10 mmol) of 2-(4-phenyl-2H-3-benzo[b]-pyranyl)acetic acid are added dropwise to this solution kept at 0° C. The reaction medium is stirred for 2 hours at 0° C. and then 1.18 ml (11 mmol) of 1-bromobutane are poured into this solution kept at this temperature of 0° C. The reaction mixture is stirred for 72 hours at room temperature. After addition of water and hydrochloric acid (2 M), the reaction mixture is extracted with diethyl ether. The organic phase, after washing with water, is dried and then evaporated off. The oil obtained is chromatographed on a silica gel (eluent: methylene chloride). After evaporation of the solvent, the crystals obtained are dispersed in pentane and then drained. 1.7 g of the expected compound are thus obtained, that is to say a yield of 52.8%. This compound has a melting point of between 117 and 119° C.

reactant | diisopropylamine | 22 mmol, 3.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 22 mmol, 13.75 ml | C(CCC)[Li]
reactant | 2-(4-phenyl-2H-3-benzo[b]-pyranyl)acetic acid | 10 mmol, 2.66 g | C1(=CC=CC=C1)C=1C2=C(OCC1CC(=O)O)C=CC=C2 | C17H14O3
reactant | 1-bromobutane | 11 mmol, 1.18 ml | BrCCCC | C4H9Br
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | pentane | CCCCC | C5H12
solvent | water | O | H2O
product | 2-(4-Phenyl-2H-3-benzo[b]pyranyl)hexanoic acid | 1.7 g, yield of 52.8% | C1(=CC=CC=C1)C=1C2=C(OCC1C(C(=O)O)CCCC)C=CC=C2 | C21H22O3
